US04053606
Step A: Preparation of 2-methyl-4-acetoxymethyl-5-hydroxymethylpyridine
2-Methyl-4,5-di(hydroxymethyl)pyridine (0.1 mole) is stirred in pyridine (50 ml.) with acetic anhydride (0.1 mole) at room temperature overnight. The pyridine is evaporated and the residue is dissolved is 10 ml. water and extracted with 2 × 30 ml. of chloroform. After drying over magnesium sulfate, the chloroform is evaporated and the residue is chromatographed on a silica gel column using benzene-ethanol as eluate. By this procedure is obtained:

reactant | 2-Methyl-4,5-di(hydroxymethyl)pyridine | 0.1 mole | CC1=NC=C(C(=C1)CO)CO | C8H11NO2
reactant | acetic anhydride | 0.1 mole | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 2-methyl-4-acetoxymethyl-5-hydroxymethylpyridine | CC1=NC=C(C(=C1)COC(C)=O)CO | C10H13NO3
